Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin / Tegaderm 
/ diazepam
 
Attending: ___.
 
Chief Complaint:
axonal sensorimotor polyneuropathy
 
Major Surgical or Invasive Procedure:
right temporary pheresis line
 
History of Present Illness:
This is a lovely ___ y/o female with a history notable for severe 
idiopathic axonal sensorimotor polyneuropathy, coronary 
vasospasm, recent pSBO with discharge 1.5 weeks ago, who is 
admitted for plasmapheresis for her severe neuropathy.  She has 
had pheresis several times over the years with good effect, last 
one being in ___ (this one did not have much benefit though per 
patient).  At the recommendation of her neurologist, she is 
undergoing plasmapheresis again, with a plan for 5 sessions 
every other day.  

Of note, she was recently hospitalized from ___ for a 
partial small bowel obstruction, which was possibly related to 
her polyneuropathy.  She improved with conservative treatment 
and was discharged in stable condition.

Currently, she has no new concerns or complaints.  She underwent 
placement of a temp pheresis line with no problems; she reports 
the pain has decreased at the site.  She had her first session 
of pheresis without any problems.  

On ROS, she notes occasional abdominal pain at night, which 
wakes her up at night but resolves on its own.  Occasional 
nausea, no vomiting.  +loose stools the past few days, but it 
was formed yesterday.  +flatus.  12-pt ROS otherwise negative in 
detail except for as noted above. 

 
Past Medical History:
- Severe idiopathic axonal sensorimotor polyneuropathy  
* initial sx in ___ (weakness and sensory loss in legs -->  
abdomen --> arms)  
* responsive to plasmapheresis ~yearly, last ___ 
* now wheelchair-bound
- Vitamin B12 deficiency
- Partial SBO, managed conservatively, ___   
- DM2 (not on medication)
- HTN   
- GERD  
- Depression  
- Diverticulosis
- Coronary vasospam on amlodipine 

PAST SURGICAL HISTORY:  
- c-section x 2  
- hysterectomy for leiomyomata  
- left breast lumpectomy  
- bilateral knee replacements  
- portacath (since removed)  
- surgery related to abdominal hematoma secondary to 
subcutaneous heparin  

 
Social History:
___
Family History:
from ___, confirmed with patient
- negative for neurological conditions
- positive for DM (mother, brother), malignancy (mother - liver, 
cervical, colon; father - lung), CAD (mother)

 
Physical Exam:
VS: Tc 98.1, BP 128/50, HR 67, RR 18, SaO2 100/RA
General: Pleasant female, laying in bed comfortably, in NAD, AO 
x 3
HEENT: Anicteric sclerae, MMM OP clear
Neck: supple, no LAD, +temp right IJ pheresis line, no bleeding 
c/d/i
Chest: CTA anteriorly
CV: RRR s1 s2 normal
Abd: soft, obese, NT/ND, NABS
Ext: no c/c/e, wwp
Neuro: decrease in pinprick and light touch in both lower 
extremties distally
Skin: warm, dry, no rashes

 
Pertinent Results:
No recent lab or imaging results. 
 
Brief Hospital Course:
ASSESSMENT & PLAN:  ___ y/o F with idiopathic severe axonal 
sensorimotor polyneuropathy, recent SBO, admitted for 
plasmapheresis for her neuropathy with course complicated by 
malpositioning of pharesis catheter now s/p removal and 
replacement of new line doing well.
  
# Idiopathoic severe axonal, sensorimotor polyneuropathy
# Coronary vasospasm potentially ___ prior plasmapharesis
# Recent partial SBO, potentially second to polyneuropathy
   Ms. ___ was admitted for 5 sessions of pheresis (QOD).  She 
had a pheresis catheter placed which required repositioning due 
to dislodgment.  However, otherwise, Ms. ___ tolerated the 
pheresis without any complications.  She was placed on tele 
given prior h/o STE after plasmapheresis (? ___ coronary 
vasospasm).  There was no notable no events on tele and 
continued to be asymptomatic on floor.  Norvasc was temporarily 
held ___ low BP while pheresis.  However, given h/o vasospasm, 
the decision to resume it on d/c. 

# Chronic constipation: Ms. ___ has a long history of 
constipation and even SBO attributed to autonomic dysfunction 
(possibly from polyneuropatyh).  She was given extesnive bowel 
regimen - and has some loose stools as a result.  She felt, she 
was still constipated and thus elected to continue with the 
regimen.  She had extensive questions about appropriate diet - 
and a nutrition consult was provided to instruct her on a high 
fiber diet.  The norvasc may also potentially contribute to some 
constipation, however, due to past h/o ST elevation from 
vasospasm, we opted to restart it on discharge

# Hyperglycemia: History of DM, off medications for ___ years. 
 ___ have been high in the hospital but they were postprandial.  
A1c 5.7%.  There was no need for ___ during the hospitalization 
thereafter. 

# HTN
 - on ASA.  ___ benefit from ACEI given ? h/o DM2.  On 
amlodipine on discharge.
# Depression and anxiety
- Continue bupropion/zoloft/lorazepam prn
# Chronic pain
- Continue gabapentin, tramadol prn    
      
#FEN:   [] IVF   [X] Oral   [] NPO   [] Tube Feeds   [] 
Parenteral
#DVT PROPHYLAXIS: [x] Heparin sc [] Mechanical [] Therapeutic 
INR
#LINES/DRAINS:   [X] Peripheral   [] PICC   [X] CVL   [] Foley
 - difficult access.  OK to maintain present IV for now
#PRECAUTIONS: None
#COMMUNICATION: Niece ___ - ___
#CONSULTS: none
#CODE STATUS: [x] Full Code []DNR/DNI
#DISPOSITION: d/c'd to ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.  
Confirmed with ___. ___ medication list. 
1. Amlodipine 2.5 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. BuPROPion 150 mg PO BID 
4. Gabapentin 100 mg PO BID 
5. Lactulose 15 mL PO TID 
6. Lorazepam 0.5 mg PO DAILY:PRN anxiety 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
8. Ondansetron 4 mg PO Q8H:PRN nausea 
9. Sertraline 75 mg PO DAILY 
10. Acetaminophen 650 mg PO QHS: PRN pain 
11. Aspirin 81 mg PO DAILY 
12. Polyethylene Glycol 17 g PO BID 
13. cyanocobalamin (vitamin B-12) 1,000 mcg/mL injection qMONTH 
14. Docusate Sodium 100 mg PO BID 
15. Multivitamins 1 TAB PO DAILY 
16. Vitamin D 1000 UNIT PO BID 
17. Bisacodyl 5 mg PO DAILY:PRN constipation 
18. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 650 mg PO QHS: PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Bisacodyl 5 mg PO DAILY:PRN constipation 
5. BuPROPion 150 mg PO BID 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 100 mg PO BID 
8. Lactulose 15 mL PO TID 
9. Lorazepam 0.5 mg PO DAILY:PRN anxiety 
10. Multivitamins 1 TAB PO DAILY 
11. Polyethylene Glycol 17 g PO BID 
12. Sertraline 75 mg PO DAILY 
13. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
14. Vitamin D 1000 UNIT PO BID 
15. Amlodipine 2.5 mg PO DAILY 
16. cyanocobalamin (vitamin B-12) 1,000 mcg/mL injection qMONTH 
17. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
18. Ondansetron 4 mg PO Q8H:PRN nausea 
19. Psyllium 1 PKT PO TID:PRN Constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Chronic idiopathic sensorimotor polyneuropathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
It was a pleasure looking after you, Ms. ___.  As you know, you 
were admitted for 5 days of pheresis treatment.  Although there 
were some challenges with the pheresis catheter, you tolerated 
the procedure well without any signficant complications.
   Please resume all your home medications.  Norvasc was held 
temporarily due to low blood pressures, particularly during 
pheresis.  This should be resumed since your blood pressure is 
now low otherwise.   
 
Followup Instructions:
___